Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient reported that since ___ she had a persistent cough 
productive of yellow sputum  that was associated with a fever of 
103 the day of presentation.
She states that associated with this cough has been malaise, 
chest pain exacerbated by cough and palpation, as well as mild 
shortness of breath that developed ___. She denies any 
hemoptysis. She otherwise denies any congestion or sore throat, 
recent sick contacts or history of recent travel. No myalgias 
noted.

On ___, patient presented to an urgent care center where she 
was
found to be hypoxemic with an SaO2 of 90%. She was started on 2L
NC and further noted to be hypotensive with a systolic BP of 98
which improved with fluids. Prior to presentation to the ED at
___, patient was given a dose of Keflex and Levaquin at the
urgent care ___. Of note, Keflex was given in error
reportedly.  

In the ED:  
- Initial vitals:  
T: 97.0 HR: 80 BP: 134/74 RR: 18 SaO2: 97% 2L NC  
- Exam notable for:  
Bilateral coarse rales  
- Labs notable for:  
Leukocytosis of 12.8 with a neutrophilic predominance, mild AST
elevation to 43, and a negative troponin, negative UA, and
negative flu swab.  
- Imaging notable for:  
CXR:  
Cardiomediastinal silhouette is within normal limits. There are
subtle opacities within the right middle lobe, which may
represent atelectasis or developing pneumonia. No pleural
effusion. There are no pneumothoraces.  
- Patient was given:  
1L LR  
1g Acetaminophen  
- Consults:  
Respiratory therapy to obtain flu swab.  
- Vitals prior to transfer:  
T: 100.8 HR: 82 BP: 138/71 RR: 18 SaO2: 96% 2L NC  

On arrival to the floor, pt was HDS. She was started on IV 
ceftriaxone + azithromycin.  

 
Past Medical History:
psoriasis
depression
anxiety
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: ___ Temp: 98.7 PO BP: 152/80 R Lying HR: 54 RR: 18
O2 sat: 95% O2 delivery: 2.5l 
GENERAL: Pleasant, lying in bed comfortably  
HEENT:  No oral exudates
CARDIAC: Regular rate and rhythm, no murmurs, rubs
LUNG: no increased work of breathing, diffuse ronchi through out
lung fields. No focal dullness to percussion appreciated 
ABD: Normal bowel sounds, soft, nontended
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  
CHEST WALL: tender to palpation at lower rib border, no gross
defects

DISCHARGE PHYSICAL EXAM:
___ 1518 Temp: 99.0 PO BP: 117/68 R Lying HR: 77 RR: 18 
O2 sat: 93% O2 delivery: RA 
GENERAL: Pleasant, lying in bed comfortably  
HEENT:  No OP erythema. No tonsillar exudates. MMM
CARDIAC: Regular rate and rhythm, no murmurs, rubs or gallops
LUNG: no increased work of breathing, diffuse ronchi throughout
lung fields. No focal dullness to percussion appreciated 
ABD: Normal bowel sounds, soft, nontender, non distended
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  
CHEST WALL: tender to palpation at lower rib border, no gross
defects

 
Pertinent Results:
ADMISSION LABS:
___ 11:50AM BLOOD WBC-12.8* RBC-4.34 Hgb-13.6 Hct-40.0 
MCV-92 MCH-31.3 MCHC-34.0 RDW-13.1 RDWSD-44.5 Plt ___
___ 11:50AM BLOOD Neuts-81.3* Lymphs-8.8* Monos-9.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.37* AbsLymp-1.12* 
AbsMono-1.18* AbsEos-0.00* AbsBaso-0.03
___ 11:50AM BLOOD Plt ___
___ 11:50AM BLOOD ___ PTT-29.4 ___
___ 11:50AM BLOOD Glucose-122* UreaN-6 Creat-0.5 Na-135 
K-3.8 Cl-93* HCO3-26 AnGap-16
___ 11:50AM BLOOD ALT-28 AST-43* AlkPhos-74 TotBili-0.2
___ 11:50AM BLOOD cTropnT-<0.01
___ 11:50AM BLOOD Albumin-4.0
___ 11:50AM BLOOD Lactate-1.3

DISCHARGE LABS:
___ 06:06AM BLOOD WBC-8.8 RBC-3.87* Hgb-12.3 Hct-37.2 
MCV-96 MCH-31.8 MCHC-33.1 RDW-13.2 RDWSD-47.3* Plt ___
___ 06:06AM BLOOD Plt ___
___ 06:06AM BLOOD Glucose-147* UreaN-7 Creat-0.5 Na-143 
K-4.3 Cl-102 HCO3-29 AnGap-12
___ 06:06AM BLOOD ALT-32 AST-37 LD(LDH)-237 AlkPhos-65 
TotBili-<0.2

IMAGING:
CXR ___
Cardiomediastinal silhouette is within normal limits.  There are 
subtle 
opacities within the right middle lobe, which may represent 
atelectasis or 
developing pneumonia.  No pleural effusion.  There are no 
pneumothoraces. 

EKG ___
Sinus rhythm
Multiple ventricular premature complexes

MICROBIOLOGY:
URINE CX PENDING ___
 
Brief Hospital Course:
[] Pt was discharged on a 5 day course of Levaquin 750 mg 
(___) to treat suspected CAP.
[] AST elevated to 43, should follow up LFTs outpatient at next 
lab check.

Ms. ___ is a ___ with a hx of psoriasis, anxiety, and 
depression who presented with productive cough associated with 
mild SOB, fever, non-cardiac chest pain, and hypoxemia with a 
new oxygen requirement likely secondary to community acquired 
pneumonia. Pt remained afebrile with down- trending WBC and CXR 
with evidence of opacities in the right middle lobe. She was 
started on IV ceftriaxone + azithromycin for new oxygen 
requirement and transitioned to Levaquin 750mg for total 5 day 
course (___). No longer required O2 by time of discharge. 


ACUTE ISSUES: 
============= 
# Acute Hypoxic Respiratory Failure: 
Patient with subtle opacities on chest xray, fever, and dyspnea 
concerning for community acquired pneumonia. No recent 
hospitalizations. Flu swab negative. Given hypoxia pt was 
started on treatment with IV ceftriaxone + azithromycin and 
transitioned to Levaquin 750mg for total 5 day course 
(___). Pt was weaned off O2 with normal ambulatory sats by 
time of discharge. 

# Chest Pain: 
Chest pain described as localized to lower rib borders and 
present primarily with coughing, no inspiratory change noted. 
EKG without ischemic changes. Pain likely related above 
respiratory infection. Pt was provided a lidocaine patch given 
risk of splinting and worsening atelectasis and acetaminophen 
for pain control.

# Transaminitis: AST mildly elevated to 43 on presentation (pt 
denies significant alcohol use)

CHRONIC ISSUES: 
=============== 
# Depression: continued home Depakote, Escitalopram
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (DELayed Release) 500 mg PO BID 
2. Escitalopram Oxalate 10 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin [Liquituss GG] 200 mg/5 mL 5 ml by mouth twice a 
day Refills:*0 
3.  LevoFLOXacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine [Aspercreme (lidocaine)] 4 % Place one patchy at 
site of pain once a day Disp #*4 Patch Refills:*0 
5.  Divalproex (DELayed Release) 500 mg PO BID  
6.  Escitalopram Oxalate 10 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute hypoxic respiratory failure
Community acquired pneumonia

Secondary diagnosis:
transaminitis
depression 
anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted because you had a cough and new oxygen 
requirement that was suspicious for a pneumonia. 
 
What was done for me while I was in the hospital?  
You were started on IV antibiotics to treat your pneumonia.

What should I do when I leave the hospital?  
 You should take Levaquin, an antibiotic to treat your 
infection. You should continue to take all your medications as 
prescribed and follow up on all your outpatient appointments.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___